US07595397B2
2-Isopropyl-morpholine-4-carboxylic acid tert-butyl ester
The above compound could be made in the following manner: 1 eq. of (2-Hydroxy-ethyl)-(2-hydroxy-3-methyl-butyl)-carbamic acid tert-butyl ester and 1.2 eq. of triphenylphosphine could be dissolved in toluene. 1.2 eq. of diethylazodicarboxylate in toluene could be added dropwise to the resulting solution at room temperature under argon atmosphere and the mixture could be stirred overnight. The solvent could be removed in vacuo and the material purified by column chromatography.

reactant | (2-Hydroxy-ethyl)-(2-hydroxy-3-methyl-butyl)-carbamic acid tert-butyl ester | 1 eq. | C(C)(C)(C)OC(N(CC(C(C)C)O)CCO)=O | C12H25NO4
reactant | triphenylphosphine | 1.2 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.2 eq. | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Isopropyl-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OCC1)C(C)C | C12H23NO3
